US09119868B2
A mixture of 6-(N-(4-bromo-3-chlorophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (327 mg, 0.552 mmol), allyl alcohol (0.475 mL, 6.9 mmol), palladium(II) acetate (29 mg, 0.132 mmol), 1,3-bis(diphenylphosphino)propane (108 mg, 0.26 mmol) and triethylamine (0.7 mL, 4.9 mmol) in DMSO (2 mL) and 1-butyl-3-methylimidazolium tetrafluoroborate (2 mL) was heated at 135° C. in a sealed tube for 59 hours. The reaction mixture was diluted with ethyl acetate and filtered through Celite. The filtrate was washed with water and brine, dried over sodium sulfate and concentrated. Chromatography on silica gel (hexane: ethyl acetate) gave 75 mg (24%) of 6-(N-(3-chloro-4-(3-hydroxyprop-1-en-2-yl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide. 1H NMR (400 MHz, chloroform-d) δ ppm 7.84-7.97 (m, 2H) 7.60 (s, 1H) 7.48 (s, 1H) 7.37-7.41 (m, 1H) 7.29-7.32 (m, 1H) 7.28 (s, 1H) 7.16-7.24 (m, 3H) 5.77-5.97 (m, 1H) 5.51-5.63 (m, 1H) 5.17 (s, 1H) 4.34-4.46 (m, 2H) 3.28 (s, 3H) 3.00 (d, J=4.88 Hz, 3H) 2.1 (m, 1H) 0.99-1.10 (m, 1H) 0.77-0.93 (m, 2H) 0.48-0.73 (m, 1H).). LCMS (m/z, ES+)=569 (M+H+).

reactant | 6-(N-(4-bromo-3-chlorophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.552 mmol, 327 mg | BrC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)Cl | C26H21BrClFN2O4S
reactant | allyl alcohol | 6.9 mmol, 0.475 mL | C(C=C)O | C3H6O
reactant | 1,3-bis(diphenylphosphino)propane | 0.26 mmol, 108 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | triethylamine | 4.9 mmol, 0.7 mL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | 1-butyl-3-methylimidazolium tetrafluoroborate | 2 mL | F[B-](F)(F)F.C(CCC)[N+]1=CN(C=C1)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium(II) acetate | 0.132 mmol, 29 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-(N-(3-chloro-4-(3-hydroxyprop-1-en-2-yl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 75 mg, 24% | ClC=1C=C(C=CC1C(=C)CO)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1 | C29H26ClFN2O5S
